* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Switching Logic.asc
* Generated by LTspice 24.1.4 for Windows.
V§UMBILICAL N044 0 PULSE(0 48 0 10m 4m 200m 5 1)
V§BATT_1 N043 0 PULSE(0 16.8 0 10m 10m 500m 5 1)
V§BATT_2 N042 0 PULSE(0 16.8 0 10m 100m 10 11 1)
R1 N036 N041 10000
R2 N041 0 1250
C2 Umbilical_comparator 0 100n
A7 BATT_2_comparator LOGIC_POWER 0 0 0 0 N063 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05
A8 BATT_1_comparator LOGIC_POWER 0 0 0 N060 N054 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05
A9 Umbilical_comparator LOGIC_POWER 0 0 0 N053 Umbilical_gate_control_logic_output 0 SCHMITT Trise=20u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 5u
R8 N041 Umbilical_comparator 1000
B§UMBILICAL_Noise UMBILICAL N044 V=white(2e4*time) / 13
BATT_1_Noise BATT_1 N043 V=white(2e4*time) / 13
BATT_2_Noise BATT_2 N042 V=white(2e4*time) / 13
R3 N037 N045 10000
R4 N045 0 4500
R6 BATT_2 N048 10000
R12 N048 0 4500
C7 N051 0 1n
C8 LOGIC_POWER 0 4.7µ Rser=1.5m
X§U1 LDO_POWER LOGIC_POWER LDO_POWER N051 LOGIC_POWER 0 ADM7170-5.0
C11 BATT_1_comparator 0 100n
R32 N045 BATT_1_comparator 1000
C12 BATT_2_comparator 0 100n
R33 N048 BATT_2_comparator 1000
D1 BATT_2 LDO_POWER D
D2 BATT_1 LDO_POWER D
D4 UMBILICAL LDO_POWER D
A12 UMBILICAL OUTPUT_RAIL 0 0 0 0 N018 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
A14 BATT_1 OUTPUT_RAIL 0 0 0 0 N024 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
A16 BATT_2 OUTPUT_RAIL 0 0 0 0 N030 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
M7 BATT_2_gate_control_signal N001 BATT_2_gate_control_signal_logic_output BATT_2_gate_control_signal_logic_output Si1555DL_P
A3 Umbilical_gate_control_signal 0 0 0 0 P001 0 0 BUF Vhigh = 5, Td = 9n
M1 BATT_1_gate_control_signal N002 BATT_1_gate_control_logic_output BATT_1_gate_control_logic_output Si1555DL_P
M6 Umbilical_gate_control_signal N003 Umbilical_gate_control_logic_output Umbilical_gate_control_logic_output Si1555DL_P
C10 RESET_GATE 0 9n
R36 RESET_GATE N016 5000
R16 N029 N016 1000
R38 N009 N008 330
R34 N001 SIGNAL_MOSFET 330
R35 N002 SIGNAL_MOSFET 330
R37 N003 SIGNAL_MOSFET 330
R48 SIGNAL_MOSFET 0 10000
M11 SIGNAL_MOSFET N009 N005 N005 Si1555DL_P
R5 N008 0 33000
A11 N007 0 N012 0 0 N008 Deny_Signal 0 DFLOP Vhigh = 5
A20 N007 RESET_CLK 0 0 0 0 N012 0 OR Vhigh = 5
D5 RESET_GATE N029 D
C15 RESET_CLK 0 17n
R39 RESET_CLK N016 5000
R40 N017 N016 1000
D6 RESET_CLK N017 D
A10 N014 0 N022 0 N027 0 N021 0 OR Vhigh = 5, Td = 33n
A6 BATT_1_gate_control_signal 0 0 0 0 P002 0 0 BUF Vhigh = 5, Td = 9n
A17 BATT_2_gate_control_signal 0 0 0 0 P003 0 0 BUF Vhigh = 5, Td = 9n
A18 RESET_GATE 0 0 0 0 P004 0 0 BUF Vhigh = 5, Td = 9n
M14 N039 BATT_1_GATE N040 N040 Si7469DP
M15 OUTPUT_RAIL BATT_1_GATE N040 N040 Si7469DP
R42 N040 BATT_1_GATE 5000
C19 N040 BATT_1_GATE 10p
D7 BATT_1_GATE N040 EDZV13B
R43 BATT_1_GATE N046 650
M16 N046 N047 0 0 BSC047N08NS3
R44 BATT_1_GATE 0 10e5
R45 N047 BATT_1_gate_control_signal 220
R46 BATT_1_gate_control_signal 0 10000
C20 N047 0 10p
M10 N049 BATT_2_GATE N050 N050 Si7469DP
M12 OUTPUT_RAIL BATT_2_GATE N050 N050 Si7469DP
R19 N050 BATT_2_GATE 5000
C18 N050 BATT_2_GATE 10p
D3 BATT_2_GATE N050 EDZV13B
R20 BATT_2_GATE N056 650
M13 N056 N058 0 0 BSC047N08NS3
R41 BATT_2_GATE 0 10e5
R47 N058 BATT_2_gate_control_signal 110
R49 BATT_2_gate_control_signal 0 10000
C21 N058 0 10p
M17 N032 UMB_GATE N033 N033 Si7469DP
M18 OUTPUT_RAIL UMB_GATE N033 N033 Si7469DP
R50 N033 UMB_GATE 10000
C22 N033 UMB_GATE 10p
M19 N034 N035 0 0 BSC047N08NS3
R51 UMB_GATE 0 10e5
R52 N035 Umbilical_gate_control_signal 220
R53 Umbilical_gate_control_signal 0 10000
C23 N035 0 10p
D9 UMB_GATE N033 EDZV22B
R54 UMB_GATE N034 10000
R55 0 OUTPUT_RAIL 5
C1 N052 0 1µ
R7 N016 0 20000
R11 OUTPUT_RAIL N052 10
R§BATT2 N049 BATT_2 0.01
R§BATT1 N039 BATT_1 0.01
R§UMB N032 UMBILICAL 0.01
L1 N036 UMBILICAL 20n
L2 N037 BATT_1 20n
L3 N038 BATT_2 20n
R9 N016 N021 0.001
R10 LOGIC_POWER N005 0.001
A5 N059 0 0 0 0 0 N062 0 AND Vhigh = 4.9, Vlow = 0.1,Td = 5n, Trise = 10n, Tfall = 10n
A13 0 0 0 0 0 0 N059 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A15 N053 0 0 0 0 0 P005 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A21 N054 0 0 0 0 0 N055 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A22 P005 0 0 0 N055 0 BATT_1_gate_control_logic_output 0 AND Vhigh = 4.9, Vlow = 0.1,Td = 5n, Trise = 10n, Tfall = 10n
A1 N053 0 0 0 0 0 N057 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A23 N060 0 0 0 0 0 N061 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A24 N063 0 0 0 0 0 N064 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A2 N057 0 N061 0 N064 0 BATT_2_gate_control_signal_logic_output 0 AND Vhigh = 4.9, Vlow = 0.1,Td = 5n, Trise = 10n, Tfall = 10n
A27 Deny_Signal 0 0 0 0 0 N013 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A28 N013 0 N015 0 N019 0 N014 0 AND Vhigh = 4.9, Vlow = 0.1,Td = 5n, Trise = 10n, Tfall = 10n
A19 Umbilical_gate_control_logic_output 0 0 0 0 0 N015 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A25 N018 0 0 0 0 0 N019 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A26 Deny_Signal 0 0 0 0 0 N020 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A29 BATT_1_gate_control_logic_output 0 0 0 0 0 N023 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A30 N024 0 0 0 0 0 N025 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A31 Deny_Signal 0 0 0 0 0 N026 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A32 N026 0 N028 0 N031 0 N027 0 AND Vhigh = 4.9, Vlow = 0.1,Td = 5n, Trise = 10n, Tfall = 10n
A33 BATT_2_gate_control_signal_logic_output 0 0 0 0 0 N028 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A34 N030 0 0 0 0 0 N031 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A35 N020 0 N023 0 N025 0 N022 0 AND Vhigh = 4.9, Vlow = 0.1,Td = 5n, Trise = 10n, Tfall = 10n
A36 P001 0 0 0 0 0 N004 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A4 N004 N006 N010 N011 0 0 N007 0 AND Vhigh = 4.9, Vlow = 0.1,Td = 5n, Trise = 10n, Tfall = 10n
A37 P002 0 0 0 0 0 N006 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A38 P003 0 0 0 0 0 N010 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A39 P004 0 0 0 0 0 N011 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1
* Need to switch all the output signals to not invert the signal
* common switch debouncing values
* ORing diodes or or gate, this needs to supply some current to turn on the transmission gate so idk?
* Maybe use transmission gates here or something (single rail transmission gates)
* If the propogation delay is high, then the and gate wont read a fast switch over event, maybe add some sort of delay so down time is more easier to detect.
* Any decoupling capacitors here?
* Voltage divider so when the umbilical falls below 30V this switches off
.lib ADM7170-5.0.sub
.backanno
.end
